US08497278B2
4-chloro-N-((2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyrimidin-2-amine (160)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridine hydrochloride and 4-chloro-6-methylpyrimidin-2-amine. H-NMR (400 MHz, CDCl3) 8.021 (s, 1H), 7.73 (m, 2H), 7.51 (d, J=9.164 Hz, 1H), 7.10 (m, 2H), 6.50 (s, 1H), 5.28 (broad, 1H, D, NH), 4.98 (d, J=5.032 Ha, 2H, D, CH2), 2.29 (s, 3H, D, CH3), 2.26 (s, 3H) ppm; m/e+ 382.0, 384.1 for C20H17ClFN5 (M+H)+

reactant | 3-(chloromethyl)-2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)F
reactant | 4-chloro-6-methylpyrimidin-2-amine | ClC1=NC(=NC(=C1)C)N | C5H6ClN3
product | 4-chloro-N-((2-(4-fluorophenyl)-6-methylimidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyrimidin-2-amine | ClC1=NC(=NC(=C1)C)NCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)F | C20H17ClFN5
